US07842758B2
1,4-Bis(trimethylsilylethynyl)-2,5-di-n-octyloxybenzene
1,4-Diiodo-2,5-di-n-octyloxybenzene (4.01 g, 6.84×10−3 mol), Pd(PPh3)2Cl2 (0.248 g, 3.53×10−4 mol), PPh3 (0.179 g, 6.82×10−4 mol), CuI (0.072 g, 3.8×10−4 mol) and piperidine (40 ml) were added to a 100-ml round-bottom flask. Ar was bubbled into the reaction mixture for 5 min before trimethylsilylacetylene (3.0 ml, 2.1×10−2 mol) was added. The reaction mixture was stirred at 60° C. for 2 h under Ar. After cooling, the solvent was evaporated. CHCl3 was added to the residue, and the organic solution was washed with aqueous NH4Cl (3 times), water, and dried over Na2SO4. After the solvent was evaporated, the residue was chromatographed on silica gel with 2:1 hexane:CHCl3 as the eluent. Yield=3.455 g (96% based on 4.01 g of 1,4-diiodo-2,5-di-n-octyloxybenzene). 1H NMR (300 MHz, CDCl3): δ 6.88 (s, 2H, Ph-H), 3.94 (t, 4H, J=6.4 Hz, —OCH2), 1.78 (quint, 4H, J=6.9 Hz, —OCH2CH2—), 1.42-1.60 (m, 4H, —OCH2CH2CH2—), 1.16-1.42 (m, 16H, —CH2—), 0.88 (t, 6H, J=6.7 Hz, —CH3), 0.25 (s, 18H, —Si—CH3). CI MS m/z: 526.366 (M+) (calcd 526.366).

reactant | 1,4-Diiodo-2,5-di-n-octyloxybenzene | 6.84×10−3 mol, 4.01 g | IC1=C(C=C(C(=C1)OCCCCCCCC)I)OCCCCCCCC | C22H36I2O2
reactant | PPh3 | 6.82×10−4 mol, 0.179 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | trimethylsilylacetylene | 2.1×10−2 mol, 3.0 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 3.53×10−4 mol, 0.248 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 3.8×10−4 mol, 0.072 g | [Cu]I
solvent | piperidine | 40 ml | N1CCCCC1 | C5H11N
product | 1,4-Bis(trimethylsilylethynyl)-2,5-di-n-octyloxybenzene | C[Si](C)(C)C#CC1=C(C=C(C(=C1)OCCCCCCCC)C#C[Si](C)(C)C)OCCCCCCCC | C32H54O2Si2
